US07074800B1
A solution of 6-methoxy-7-(3-piperidinopropoxy)-3,4-dihydroquinazolin-4-one (1.5 g, 4.7 mmol) in thionyl chloride (15 ml) containing DMF (1.5 ml) was heated at reflux for 3 hours. After cooling, the volatiles were removed under vacuum. The residue was azeotroped with toluene. The solid was partitioned between methylene chloride and sodium hydrogen carbonate. The aqueous layer was adjusted to pH10 with 6M aqueous sodium hydroxide. The organic layer was separated, washed with brine, dried (MgSO4) and the volatiles were removed by evaporation. The residue was purified by column chromatography to give 4-chloro-6-methoxy-7-(3-piperidinopropoxy)quinazoline (1.21 g, 76%).

reactant | 6-methoxy-7-(3-piperidinopropoxy)-3,4-dihydroquinazolin-4-one | 4.7 mmol, 1.5 g | COC=1C=C2C(NC=NC2=CC1OCCCN1CCCCC1)=O | C17H23N3O3
reactant | DMF | 1.5 ml | CN(C)C=O | C3H7NO
reactant | thionyl chloride | 15 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-chloro-6-methoxy-7-(3-piperidinopropoxy)quinazoline | 1.21 g, 76% | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCCCC1 | C17H22ClN3O2
